US03958003
p-Fluoro-4-(5-fluoro-3-hydroxyspiro[indan-1,3'-pyrrolidin]-1'-yl) butyrophenone
5-Fluorospiro[indan-1,3'-pyrrolidin]-3-ol is reacted in a manner analogous to that described in Example 1(A) or Example 2(A). The hydrogen fumarate of the title compound has a M.P. of 143°-145° (from ethanol/ether).

reactant | 5-Fluorospiro[indan-1,3'-pyrrolidin]-3-ol | FC=1C=C2C(CC3(CNCC3)C2=CC1)O | C12H14FNO
reactant | hydrogen fumarate | C(\C=C\C(=O)[O-])(=O)O
product | p-Fluoro-4-(5-fluoro-3-hydroxyspiro[indan-1,3'-pyrrolidin]-1'-yl) butyrophenone | FC1=CC=C(C=C1)C(CCCN1CC2(CC1)CC(C1=CC(=CC=C12)F)O)=O | C22H23F2NO2
